US07973026B2
Step 1: methyl 5-bromo-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.1 M) of methyl 5-bromo-4-(tert-butoxycarbonyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate (prepared as described in WO2005/023819) in CH2Cl2 was treated with trifluoroacetic acid (1:1). The reaction mixture was stirred at RT for 1 h. All volatiles were evaporated giving a residue that was purified by flash chromatography (PE:EtOAc, 7:3) giving the title compound (79%) as solid. 1H-NMR (400 MHz, DMSO-d6, 300 K, δ) 7.60 (s, 1H), 3.80 (s, 3H), 2.66-2.55 (m, 1H), 1.85-1.20 (m, 10H). MS (ES+) m/z: 342, 344 [M+H]+.

reactant | methyl 5-bromo-4-(tert-butoxycarbonyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.1 M | BrC1=C(C2=C(N1C(=O)OC(C)(C)C)C=C(S2)C(=O)OC)C2CCCCC2 | C19H24BrNO4S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl 5-bromo-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 79% | BrC1=C(C2=C(N1)C=C(S2)C(=O)OC)C2CCCCC2 | C14H16BrNO2S
